US06642389B2
d] 2-(2-Benzoyl-phenylamino)-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-naphthalen-1-yl}-propionic acid
0.213 g (0.341 mmol) of 2-(2-Benzoyl-phenylamino)-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-naphthalen-1-yl}-propionic acid ethyl ester was dissolved in 1.6 ml of THF/EtOH=1/1 and treated with 0.568 ml of 3N NaOH(5 eq). The reaction flask was stirred for 20 h at ambient temperature. The mixture was then poured onto crashed ice/NH4Cl, extracted twice with AcOEt, washed with brine, dried over sodium sulfate, and evaporated to dryness. Twofold crystallization from hexane/AcOEt yielded 0.199 g of the title product as yellow crystals of mp. 125° (dec.).

reactant | 2-(2-Benzoyl-phenylamino)-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-naphthalen-1-yl}-propionic acid ethyl ester | 0.341 mmol, 0.213 g | C(C)OC(C(CC1=CC=C(C2=CC=CC=C12)OCCC=1N=C(OC1C)C1=CC=CC=C1)NC1=C(C=CC=C1)C(C1=CC=CC=C1)=O)=O | C40H36N2O5
reactant | NaOH | 3N, 0.568 ml, 5 eq | [OH-].[Na+]
solvent | THF EtOH | 1.6 ml | C1CCOC1.CCO
product | 2-(2-Benzoyl-phenylamino)-3-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-naphthalen-1-yl}-propionic acid | 0.199 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC=C1)NC(C(=O)O)CC1=CC=C(C2=CC=CC=C12)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C38H32N2O5
